US07592358B2
4.1c. 2-[4-(5-bromopyridin-2-ylethynyl)phenoxy]ethanol
The product was obtained analogously to Example 1.1d starting from 7.70 g (47.48 mmol) of 2-(4-ethynylphenoxy)ethanol and 11.37 g (48.00 mmol) of 2,5-dibromopyridine. Yield: 7.40 g (49% of theoretical); C15H12BrNO2 (M=318.165); calc.: molpeak (M+H)+: 318/320 (Br); found: molpeak (M+H)+: 318/320 (Br); Rf value: 0.20 (silica gel, PE/EtOAc 6:4).

reactant | 2-(4-ethynylphenoxy)ethanol | 47.48 mmol, 7.70 g | C(#C)C1=CC=C(OCCO)C=C1 | C10H10O2
reactant | 2,5-dibromopyridine | 48.00 mmol, 11.37 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-(5-bromopyridin-2-ylethynyl)phenoxy]ethanol | BrC=1C=CC(=NC1)C#CC1=CC=C(OCCO)C=C1 | C15H12BrNO2
